US07384945B2
1-{4-[6-Fluoro-2-phenoxymethyl-3-(4-trifluoromethoxy-benzyl)-3H-benzoimidazol-5-yl]-piperazin-1-yl}-3-methoxy-propan-1-one
0.020 ml 3-methoxy-propionic acid (0.2 mmol) and 40 mg 1′1-carbonyldiimidazole (0.24 mmol) were refluxed in 4 ml dichloromethane under nitrogen for 40 minutes. 100 mg of 5-fluoro-2-phenoxymethyl-6-piperazin-1-yl-1-(4-trifluoromethoxy-benzyl)-1H-benzoimidazole (0.2 mmol) were added and the resulting mixture refluxed for additional 4.5 h. The reaction mixture was then diluted with dichloromethane, washed with water, saturated sodium bicarbonate and brine, dried with magnesium sulfate, filtered and concentrated in vacuo, leading to 129 mg yellow solid. This residue was purified by column chromatography (40 g silicagel, dichloromethane/methanol 24:1) leading to 44 mg off-white solid (37%). MS (ISP) 587.2 (M+H)+.

reactant | 3-methoxy-propionic acid | 0.2 mmol, 0.020 ml | COCCC(=O)O | C4H8O3
reactant | 5-fluoro-2-phenoxymethyl-6-piperazin-1-yl-1-(4-trifluoromethoxy-benzyl)-1H-benzoimidazole | 0.2 mmol, 100 mg | FC1=CC2=C(N(C(=N2)COC2=CC=CC=C2)CC2=CC=C(C=C2)OC(F)(F)F)C=C1N1CCNCC1 | C26H24F4N4O2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 1-{4-[6-Fluoro-2-phenoxymethyl-3-(4-trifluoromethoxy-benzyl)-3H-benzoimidazol-5-yl]-piperazin-1-yl}-3-methoxy-propan-1-one | FC=1C(=CC2=C(N=C(N2CC2=CC=C(C=C2)OC(F)(F)F)COC2=CC=CC=C2)C1)N1CCN(CC1)C(CCOC)=O | C30H30F4N4O4
